US05409943
(a) N-(3-Benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)thiourea
A stirring mixture of 2-amino-3-benzyloxy pyridine (5.68 g, 0.0284 mol) and 4cyanophenyl isothiocyanate (5 g, 0.0312 mol) in toluene (20 ml) was heated under reflux for 2 h. After allowing to cool, the solution was treated with ether, and the resulting solid filtered off, washed and dried. Yield 9.4 g (92%), m.p. 163°-165 ° C.

reactant | 2-amino-3-benzyloxy pyridine | 0.0284 mol, 5.68 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | 4cyanophenyl isothiocyanate | 0.0312 mol, 5 g | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
reactant | ether | CCOCC | C4H10O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Benzyloxy-2-pyridyl)-N'-(4-cyanophenyl)thiourea | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(=S)NC1=CC=C(C=C1)C#N | C20H16N4OS
